US09376441B2
6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridine (1.53 g, 5.4 mmol) was added as a solution in 1,4-dioxane (10 mL) to a mixture of pyridinium tribromide (8.7 g, 27 mmol) in 1,4-dioxane (10 mL) over 30 min. Following complete addition, the reaction mixture was stirred 2 h and was then quenched with water (25 mL). The resulting mixture was stirred 20 min and was then diluted with EtOAc. The aqueous phase was extracted with EtOAc (2×) and the combined organics were washed with water (2×) and brine (2×), dried over Na2SO4, filtered, and concentrated to afford crude 3,3-dibromo-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridin-2(3H)-one that was used without further purification. LCMS-ESI+ (m/z): [M+H]+ calcd for C13H18Br2ClN2O2Si: 454.92; found: 454.48.

reactant | 6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridine | 5.4 mmol, 1.53 g | ClC1=CC2=C(C=N1)C=CN2COCC[Si](C)(C)C | C13H19ClN2OSi
reactant | pyridinium tribromide | 27 mmol, 8.7 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3,3-dibromo-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridin-2(3H)-one | BrC1(C(N(C2=C1C=NC(=C2)Cl)COCC[Si](C)(C)C)=O)Br | C13H17Br2ClN2O2Si
